US07956074B2
4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 1H-benzoimidazole-4-carboxylic acid instead of o-toluic acid to the title compound (SiO2, dichloromethane:methanol:ammonia=95:5:0)=100:0 to 80:20, 32 mg, 10%) which was obtained as a white solid. MS: m/e=344.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 1H-benzoimidazole-4-carboxylic acid | N1C=NC2=C1C=CC=C2C(=O)O | C8H6N2O2
product | 4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazole | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=CC=CC=2NC=NC21 | C19H13N5O2
